US09388138B2
(E)-2-(2-(Quinolin-2-yl)prop-1-enyl)phenol Hydrochloride
A solution of hydrochloric acid (2.0 M in diethyl ether, 0.19 mL, 0.38 mmol, 1.0 eq.) was added dropwise to a stirred suspension of (E)-2-(2-(quinolin-2-yl)prop-1-enyl)phenol (100 mg, 0.38 mmol, 1.0 eq.) in dry diethyl ether (5 mL). The mixture was stirred at r.t. for 30 min and was filtered. The solids were washed with diethyl ether (2×5 mL) and were dried under reduced pressure yielding the product (90 mg, 80% yield) as a bright yellow solid; 1H NMR (400 MHz, DMSO-d6) δ 2.41 (s, 3H, CH3), 6.89 (t, J=7.5 Hz, 1H, Ar), 6.94 (d, J=7.5 Hz, 1H, Ar), 7.20 (t, J=7.5 Hz, 1H, Ar), 7.39 (d, J=7.5 Hz, 1H, Ar), 7.64 (s, 1H, C═CH), 7.72 (t, J=7.5 Hz, 1H, Ar), 7.92 (t, J=7.5 Hz, 1H, Ar), 8.13 (d, J=8.5 Hz, 2H, Ar), 8.27 (d, J=7.5 Hz, 1H, Ar), 8.71 (d, J=7.5 Hz, 1H, Ar), 9.88 (br s, 1H, OH).

reactant | hydrochloric acid | 0.38 mmol, 2.0 M, 0.19 mL, 1.0 eq. | Cl | ClH
reactant | (E)-2-(2-(quinolin-2-yl)prop-1-enyl)phenol | 0.38 mmol, 100 mg, 1.0 eq. | N1=C(C=CC2=CC=CC=C12)/C(=C/C1=C(C=CC=C1)O)/C | C18H15NO
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | (E)-2-(2-(Quinolin-2-yl)prop-1-enyl)phenol Hydrochloride | 90 mg, 80% yield | Cl.N1=C(C=CC2=CC=CC=C12)/C(=C/C1=C(C=CC=C1)O)/C | InChI=1S/C18H15NO.ClH/c1-13(12-15-7-3-5-9-18(15)20)16-11-10-14-6-2-4-8-17(14)19-16;/h2-12,20H,1H3;1H/b13-12+;
